US07259183B2
Propyne (excess ca 3 ml) was condensed onto a cold (−78° C.) solution of 2-amino-5-chloro-3-iodobenzoic acid methyl ester (500 mg, 1.61 mmol) in triethylamine (10 ml) in a Parr pressure reaction vessel. To this solution was added copper (I) iodide and bis(triphenylphosphine)palladium (II) chloride and the pressure tube was then sealed and stirred at rt for 4 h. The solvent was then removed in vacuo and the residue was purified by flash column chromatography (9:1 cyclohexane:EtOAc) to give 2-amino-5-chloro-3-prop-1-ynylbenzoic acid methyl ester (340 mg, 95%) as an off white solid. 1H NMR (CDCl3, 300 MHz): δ 7.76 (d, J=2.5 Hz, 1H), 7.33 (d, J=2.5 Hz, 1H), 6.37 (br s, 2H), 3.87 (s, 3H), 2.13 (s, 3H).

reactant | Propyne | ca 3 ml | C#CC | C3H4
reactant | 2-amino-5-chloro-3-iodobenzoic acid methyl ester | 1.61 mmol, 500 mg | COC(C1=C(C(=CC(=C1)Cl)I)N)=O | C8H7ClINO2
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
catalyst | copper (I) iodide | [Cu]I
catalyst | bis(triphenylphosphine)palladium (II) chloride | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 2-amino-5-chloro-3-prop-1-ynylbenzoic acid methyl ester | 340 mg, 95% | COC(C1=C(C(=CC(=C1)Cl)C#CC)N)=O | C11H10ClNO2
